Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
erythromycin base / gabapentin
 
Attending: ___.
 
Chief Complaint:
cellulitis/incision drinage
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ patient of Dr. ___ presents with fever and foul
smelling drainage from incision. She is s/p spinal cord
stimulator placement on ___ ___. She noticed
swelling and redness around incision site starting on ___ with
increasing pain around incision. She developed a fever and had
difficulty walking due to pain, so she went to an OSH ED in
___ on ___. At the OSH she reports that she had an elevated
WBC and fever. She was sent home from the ED and saw her PCP on
___, ___. Her PCP prescribed her 500 q4h Amoxicillin. On
___ she had a Tm of 102.9. She noted bloody/yellow foul
smelling drainage from incision starting on ___. Yesterday,
the pain was starting to improve but she reports intermittent
fevers and continued draining from incision. She made an
appointment to be seen in clinic for today (___) but missed the
appointment due to getting lost on the way in. She was told to
come to the ED. She denies headache and nausea.
 
Past Medical History:
-Carpal tunnel syndrome
-HLD
-Lumbar radiculopathy
-Restless leg syndrome
-Depression 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Exam on admission:
PHYSICAL EXAM:
T: 97.5  BP: 152/98    HR: 87    R 18       O2Sats 100% RA
Gen: NAD
Neck: Supple.
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G

Sensation: Intact to light touch

Wound: 
- Mid-back incision - clean, dry, intact. Some erythema around
edges. Closed with sutures. 
- Right low back incision - Area surrounding boggy and
erythematous. Active yellow drainage from incision,
serosanguinous drainage on bed sheets, foul smelling. Tender and
warm to touch. Closed with sutures.

Exam on discharge:
PHYSICAL EXAM:
T: afebrile
Gen: NAD
Neck: Supple.
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G

Sensation: Intact to light touch

Wound: 
- Mid-back incision - clean, dry, intact. Some erythema around
edges. Closed with sutures. 
- Right low back incision - no further drainage.  Mil erythema 
at wound edges with mild tenderness.  No expressible drainage.

 
Pertinent Results:
Please see OMR
 
Brief Hospital Course:
___ yo female s/p thoracic SCS
placement at ___ ___.  She was to f/u in clinic yesterday 
for
wound evaluation after she reported wound drainage.  She missed
her appointment and was told to present to the ED.  On 
assessment
she had drainage from the incision and erythema.  She was
afebrile with WBC of 5.1.  She was started on Ancef IV Q 8 hrs. 
She remained afebrile with a flat white count.  On reassessment
of the incision there was no further drainage and erythema was
improved.  The patient was admitted to the floor for 
observation.

At 1600 nursing paged stating that the patient was asking to
leave for social reasons.  She states she has no care for her 
dog
or her nieces' children and she has to go home.  I explained 
that
this infection could get worse if we stop IV antibiotics and 
that
she may still need to go to the OR for I&D.  I explained that 
she
could develop another abscess and the infection could spread and
become life threatening.  She voices understanding off this and
explains she would prefer to leave on oral antibiotics and 
return
next week for evaluation.  I explained that should she develop a
fever, worsening erythema, tenderness, or return of fluid
collection or drainage that she should present tot he ED
immediately.  She expresses understanding of this and agrees to
the plan.

 
Medications on Admission:
Adderall XR 50mg QAM; Atorvastatin 10mg daily; Zyrtec 10mg 
daily; Colace 100mg BID; Ferrous sulfate 65mg TID; Prozac 40mg 
daily; Flonase 50 mcg/actuation, 1 spray each nostril daily; 
Xalantan 0.005% ophthalmic solution 1 drop nightly; Claritin 
10mg tablet daily; Meloxicam 7.5mg tablet daily; Pantoprazole 
40mg daily; Lyrica 150mg BID; Senna 8.6mg tablet daily
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Cephalexin 500 mg PO Q6H 
Start this prescription after completing your previous 
prescription 
RX *cephalexin 500 mg 1 (One) capsule(s) by mouth four times a 
day Disp #*28 Capsule Refills:*0 
3.  Atorvastatin 10 mg PO QPM  
4.  Cetirizine 10 mg PO DAILY  
5.  Ferrous Sulfate 325 mg PO DAILY  
6.  FLUoxetine 40 mg PO DAILY  
7.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
8.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
9.  Lisinopril 10 mg PO DAILY  
10.  Methocarbamol 250 mg PO QID  
11.  Pantoprazole 40 mg PO Q24H  
12.  Pregabalin 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
IPG site cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Spine Surgery without Fusion

Surgery
•Your dressing may come off on the second day after surgery. 
•*** Your incision is closed with staples or sutures. You will 
need suture/staple removal. Please keep your incision dry until 
suture/staple removal.
•*** Your incision is closed with dissolvable sutures 
underneath the skin and steri strips. You do not need suture 
removal. Do not remove your steri strips, let them fall off. 
Please keep your incision dry for 72 hours after surgery.
•Do not apply any lotions or creams to the site. 
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•*** You may take Ibuprofen/ Motrin for pain.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___